US06455550B1
4-Amino-N-[[1-(phenylmethyl)cyclopentyl]carbonyl]-L-phenylalanine methyl ester (35.3 mg, 0.093 mmol) and 2-methyl-5-nitrobenzoic acid 20 mg, 0.11 mmol) were reacted as described in example 34 to give 4-[[(2-methyl-5-nitrophenyl)carbonyl]amino]-N-[[1-(phenylmethyl)cyclopentyl]carbonyl]-L-phenylalanine (34 mg, 69%), HR-FAB-MS: obs. mass 530.2298. Calcd. mass 530.2291 (M+H).

reactant | 4-Amino-N-[[1-(phenylmethyl)cyclopentyl]carbonyl]-L-phenylalanine methyl ester | 0.093 mmol, 35.3 mg | COC([C@@H](NC(=O)C1(CCCC1)CC1=CC=CC=C1)CC1=CC=C(C=C1)N)=O | C23H28N2O3
reactant | 2-methyl-5-nitrobenzoic acid | 0.11 mmol, 20 mg | CC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C8H7NO4
product | 4-[[(2-methyl-5-nitrophenyl)carbonyl]amino]-N-[[1-(phenylmethyl)cyclopentyl]carbonyl]-L-phenylalanine | 34 mg, 69% | CC1=C(C=C(C=C1)[N+](=O)[O-])C(=O)NC1=CC=C(C[C@H](NC(=O)C2(CCCC2)CC2=CC=CC=C2)C(=O)O)C=C1 | C30H31N3O6
